US06610518B2
Preparation of 4-hydroxy-N-[6-methoxy-5-(2-methoxyphenoxy)-2-(2-pyrimidinyl)-pyrimidin-4-yl]-3,3-dimethyl-1-butanesulfonamide
Streptomyces rimosus subsp. rimosus ATCC10970 maintained on a quarter strength ATCC172 agar slope was inoculated as a loopful of spores into a 300 ml Erlenmeyer flask containing 50 ml of AS-7H inoculum medium. This was allowed to incubate for 2 days at 28° C., 200 rpm on an Infors Multitron™ Shaker with 1″ throw. 2 mls of this inoculum medium was then transferred to twenty six 300 ml Erlenmeyer flask containing 50 ml of AP-5H production medium and incubated under the same conditions for a further 24 hours. At this point 4.5 mg of N-[6-methoxy-5-(2-methoxyphenoxy)-2-(2-pyrimidinyl)-4-pyrimidinyl]-3,3-dimethyl-1-butanesulfonamide (Preparation 1) dissolved in 0.5 ml of methanol was added to each of the flasks and the fermentation allowed to continue under the same conditions for a further 20 hours. The flask was then extracted with 200 mls of ethyl acetate and the combined ethyl acetate solubles concentrated to dryness to give a gum solid, 430 mg .

reactant | N-[6-methoxy-5-(2-methoxyphenoxy)-2-(2-pyrimidinyl)-4-pyrimidinyl]-3,3-dimethyl-1-butanesulfonamide | 4.5 mg | COC1=C(C(=NC(=N1)C1=NC=CC=N1)NS(=O)(=O)CCC(C)(C)C)OC1=C(C=CC=C1)OC | C22H27N5O5S
reactant | methanol | 0.5 ml | CO | CH4O
product | 4-hydroxy-N-[6-methoxy-5-(2-methoxyphenoxy)-2-(2-pyrimidinyl)-pyrimidin-4-yl]-3,3-dimethyl-1-butanesulfonamide | OCC(CCS(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)OC)C1=NC=CC=N1)(C)C | C22H27N5O6S
